US08957064B2
3-bromo-6-phenyl-7-{4-{3-[5-(pyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidine
143 mg (0.3 mmol) 6-Phenyl-7-{4-{3-[5-(pyridine-2-yl)-1H-[1,2,4]triazole-3-yl)azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidine are dissolved in 11.8 mL chloroform. 57.8 mg (0.3 mmol) N-bromosuccinimide are added and the reaction mixture is heated for one hour at reflux. The solvent is evaporated and the residue is purified by chromatography (silicagel, eluents: dichloromethane/methanol). 19.1 mg (10%) pure compound and 75.8 mg (41%) slightly contaminated product are obtained.

reactant | 6-Phenyl-7-{4-{3-[5-(pyridine-2-yl)-1H-[1,2,4]triazole-3-yl)azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidine | 0.3 mmol, 143 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC=CC=C2 | C29H24N8
reactant | N-bromosuccinimide | 0.3 mmol, 57.8 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 11.8 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-bromo-6-phenyl-7-{4-{3-[5-(pyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidine | 19.1 mg, 10% | BrC1=CN=C2N1C=C(C(=N2)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC=CC=C2)C2=CC=CC=C2 | C29H23BrN8
